Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
Codeine / Hydrocodone
 
Attending: ___
 
Chief Complaint:
Angina
 
Major Surgical or Invasive Procedure:
___ Coronary artery bypass graft x3: Left internal mammary 
artery to left anterior descending artery, and saphenous vein 
grafts to obtuse marginal-1 and 2
 
History of Present Illness:
This is a ___ y.o ___ speaking Latino woman with a past 
medical history of IDDM, poorly controlled hypertension, 
hypercholesterolemia, and GERD, who first presented in ___ with 
angina and an abnormal stress test. She was taken to the cath 
lab where she was found to have proximal and mid LAD lesions, 
which were each treated with one Taxus DES. She has done well 
over the past several years and is followed by ___ Clinic. 
She states he blood pressure has been difficulty to manage at 
times. Approximately one month ago she developed shortness of 
breath while climbing stairs. This usually resolves with rest. 
She also experiences shortness of breath when walking long 
distances on flat surfaces. Cardiac catheterization today 
revealed multi-vessel disease and she was referred for surgery.
 
Past Medical History:
Coronary artery disease s/p stents ___ years ago
Lumbar Spine DJD s/p disc surgery ___ years ago
Osteoarthritis and Tenosynovitis s/p recent steroid injection to
the left volar third finger with improvement
Diabetes Mellitus c/b neuropathy
Hypertension 
GERD 
Iron Deficiency Anemia
Tonsillectomy
Hysterectomy (ovaries intact)
 
Social History:
___
Family History:
Brother past away from Leukemia and had "irregular heart rates". 
Father past away in his ___ following an MI. Mother had 
congestive heart failure and diabetes and died in her ___. Her 
daughter who is 36 also has leukemia. Many family members have 
diabetes and ___.
 
Physical Exam:
Pulse: 69 Resp:14  O2 sat: 99%
B/P  ___
Height: ___ Ft 4 inches    Weight:180 lbs
  
General:
Skin: Dry [x] intact [x]
HEENT: PERRLA [x] EOMI [x]
Neck:  Supple [x] Full ROM [x]
Chest: Lungs clear bilaterally [x]
Heart: RRR [x]  Irregular []  Murmur
Abdomen: Soft [x] non-distended [x] non-tender [x]  bowel sounds
+ [x]
Extremities: Warm [x], well-perfused [x]  Edema Varicosities:
None [x]
Neuro: Grossly intact[x]
Pulses:
Femoral      Right:1+   Left:1+
DP           Right:1+   Left:1+
___           Right:1+   Left:1+
Radial       Right:2+   Left:2+

Carotid Bruit        Right:-    Left:-
 
Pertinent Results:
___ 04:30AM BLOOD WBC-8.5 RBC-3.85* Hgb-10.7* Hct-32.3* 
MCV-84 MCH-27.8 MCHC-33.2 RDW-14.1 Plt Ct-94*
___ 04:30AM BLOOD Glucose-106* UreaN-16 Creat-0.7 Na-137 
K-4.4 Cl-99 HCO3-31 AnGap-11
___ 04:30AM BLOOD Mg-2.1

Conclusions  
Prebypass
No spontaneous echo contrast is seen in the body of the left 
atrium or left atrial appendage. No atrial septal defect is seen 
by 2D or color Doppler. Left ventricular wall thickness, cavity 
size and regional/global systolic function are normal (LVEF 
>55%). Right ventricular chamber size and free wall motion are 
normal. The ascending, transverse and descending thoracic aorta 
are normal in diameter and free of atherosclerotic plaque. The 
aortic valve leaflets (3) are mildly thickened but aortic 
stenosis is not present. No aortic regurgitation is seen. The 
mitral valve leaflets are mildly thickened. Trivial mitral 
regurgitation is seen. There is no pericardial effusion.

Postbypass

Dr. ___ was notified in person of the results at the 
time of the study.   
  I certify that I was present for this procedure in compliance 
with ___ regulations.

Interpretation assigned to ___, MD, Interpreting 
physician  
   

 
___:
Mrs. ___ was a same day admit and brought to the operating 
room on ___ where she underwent a coronary artery bypass graft x 
3. Please see operative report for surgical details. Following 
surgery she was transferred to the CVICU for invasive monitoring 
in stable condition. Later that day she was weaned from 
sedation, awoke neurologically intact and extubated. She was 
started on beta-blockers and diuretics and gently diuresed 
towards her pre-op weight. On post-op day one she was 
transferred to the step-down floor for further care. On post-op 
day two her chest tubes and epicardial pacing wires were 
removed. She continued to make good progress and worked with 
physical therapy for strength and mobility. On post-op day #4 
she was discharged to ___ rehab with the 
appropriate medications and follow-up appointments.
 
Medications on Admission:
AMBIEN - 10MG Tablet - ONE PILL BY MOUTH AT BEDTIME
ATENOLOL - 50 mg Tablet - 1 Tablet(s) by mouth at bedtime
CITALOPRAM -  (Prescribed by Other Provider) - 10 mg Tablet - 1
(One) Tablet(s) by mouth once a day total dose is 50mg daily
CITALOPRAM [CELEXA] - 40 mg Tablet - 1 Tablet(s) by mouth once a
day plus add'l 10 mg for total of ___ (VITAMIN D2) [VITAMIN D] -  (Prescribed by Other
Provider) - 50,000 unit Capsule - 1 (One) Capsule(s) by mouth
every other ___
FLUTICASONE - 50 mcg Spray, Suspension - ___ spray(s) both
nostrils once a day
GABAPENTIN -  (Prescribed by Other Provider) - 100 mg Capsule - 
2
Capsule(s) by mouth in the morning, 3 pills at bedtime/PRN
INSULIN LISPRO [HUMALOG] -  (Prescribed by Other Provider: Dr.
___ - 100 unit/mL Solution - Sliding Scale 4 x a day per
___
LISINOPRIL - 40 mg Tablet - 1 Tablet(s) by mouth once a day
METFORMIN -  (Prescribed by Other Provider) - 500 mg Tablet - 2
Tablet(s) by mouth twice a day
NIACIN [NIASPAN EXTENDED-RELEASE] - 500 mg Tablet Extended
Release - 1 Tablet(s) by mouth twice a day
NYSTATIN-TRIAMCINOLONE - 100,000 unit/gram-0.1 % Cream - as
directed four times a day please dispense 30 gm tube
PANTOPRAZOLE - 40 mg Tablet, Delayed Release (E.C.) - 1 
Tablet(s)
by mouth once a day
RISPERIDONE - 1 mg Tablet - 1 Tablet(s) by mouth once a day
SIMVASTATIN - 5 mg Tablet - 1 Tablet(s) by mouth once a day
TRAMADOL - 50 mg Tablet - 1 Tablet(s) by mouth twice a day as
needed for pain
 
Medications - OTC
ACETAMINOPHEN [TYLENOL] - 325 mg Tablet - as needed
ECASPIRIN - 325MG Tablet, Delayed Release (E.C.) - ONE BY MOUTH
EVERY DAY
LORATADINE - 10 mg Tablet - 1 tablet by mouth once a day
NPH INSULIN HUMAN RECOMB [HUMULIN N] -  (Prescribed by Other
Provider: Dr. ___ Dose adjustment - no new Rx) - 100 
unit/mL
Suspension - 30units in the morning 17 units at bedtime
 
Discharge Medications:
1. citalopram 20 mg Tablet Sig: 2.5 Tablets PO DAILY (Daily).  
2. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day) for 1 months.  
3. aspirin 81 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).  
4. furosemide 20 mg Tablet Sig: One (1) Tablet PO Q12H (every 12 
hours).  
5. potassium chloride 20 mEq Packet Sig: One (1) Packet PO Q12H 
(every 12 hours): hold for K+ > 4.5.  
6. niacin 500 mg Capsule, Extended Release Sig: One (1) Capsule, 
Extended Release PO BID (2 times a day).  
7. risperidone 0.5 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
8. pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
9. simvastatin 10 mg Tablet Sig: 0.5 Tablet PO DAILY (Daily).  
10. fluticasone 50 mcg/Actuation Spray, Suspension Sig: One (1) 
Spray Nasal DAILY (Daily).  
11. metformin 500 mg Tablet Extended Release 24 hr Sig: Two (2) 
Tablet Extended Release 24 hr PO DAILY (Daily): DO NOT CRUSH.  
12. oxycodone-acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q6H (every 6 hours) as needed for pain.
Disp:*50 Tablet(s)* Refills:*0*
13. metoprolol tartrate 50 mg Tablet Sig: One (1) Tablet PO TID 
(3 times a day).  
14. INSULIN ss and fixed dose ( see attached)

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Coronary artery disease s/p Coronary artery bypass graft x 3
Past medical history:
s/p stents ___ years ago
Lumbar Spine DJD s/p disc surgery ___ years ago
Osteoarthritis and Tenosynovitis s/p recent steroid injection to 
the left volar third finger with improvement
Diabetes Mellitus c/b neuropathy
Hypertension
GERD
Iron Deficiency Anemia
Tonsillectomy
Hysterectomy (ovaries intact) 
 
Discharge Condition:
Alert and oriented x3 nonfocal 
Ambulating with steady gait
Incisional pain managed with oral analgesics
Incisions: 
Sternal - healing well, no erythema or drainage 
Leg Right/Left - healing well, no erythema or drainage.
Edema -BLE 1+

 
Discharge Instructions:
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming until cleared by surgeon. Look at 
your incisions daily for redness or drainage
Please NO lotions, cream, powder, or ointments to incisions 
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart 

No driving for approximately one month and while taking 
narcotics, will be discussed at follow up appointment with 
surgeon when you will be able to drive 
No lifting more than 10 pounds for 10 weeks
Please call with any questions or concerns ___
Females: Please wear bra to reduce pulling on incision, avoid 
rubbing on lower edge
**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**
 
Followup Instructions:
___